US09029374B2
N-ethyl-N-isopropylpropan-2-amine (9.4 mL, 53.9 mmol) was added to 8-acetyl-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (5.7 g, 18 mmol) in DCM (100 mL). Five minutes later dimethylamine hydrochloride (2.9 g, 35.9 mmol) and 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (6.92 g, 21.6 mmol) were added. The mixture was diluted with DCM, washed with NaHCO3, dried over magnesium sulfate and concentrated to afford the crude product which was purified by flash chromatography on silica gel eluting with 0 to 5% MeOH/DCM. The solvent was evaporated to dryness to afford 8-acetyl-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (2.75 g, 46%) as a yellow solid.

reactant | N-ethyl-N-isopropylpropan-2-amine | 53.9 mmol, 9.4 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 8-acetyl-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 18 mmol, 5.7 g | C(C)(=O)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C16H15NO6
reactant | dimethylamine hydrochloride | 35.9 mmol, 2.9 g | Cl.CNC
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 8-acetyl-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 2.75 g, 46% | C(C)(=O)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C18H20N2O5
